US07589206B2
3-Methyl-7-morpholin-4-yl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid cyclopropylmethyl-amide hydrochloride salt
Prepared in a similar manner to Example 11 (c) from 7-chloro-4-(cyclopropylmethyl-carbamoyl)-3-methyl-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester. The solid mass was dissolved in the minimum of methanol and absorbed onto silica gel. The residue was purified by Biotage chromatography as described in Example 6 afford the title compound (14 mg).

reactant | 7-chloro-4-(cyclopropylmethyl-carbamoyl)-3-methyl-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(NCC2CC2)=O)Cl)C | C18H22ClN3O3
reactant | methanol | CO | CH4O
product | 3-Methyl-7-morpholin-4-yl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid cyclopropylmethyl-amide hydrochloride salt | 14 mg | Cl.C1(CC1)CNC(=O)C=1C2=C(C(=NC1)N1CCOCC1)NC=C2C | InChI=1S/C17H22N4O2.ClH/c1-11-8-18-15-14(11)13(17(22)20-9-12-2-3-12)10-19-16(15)21-4-6-23-7-5-21;/h8,10,12,18H,2-7,9H2,1H3,(H,20,22);1H
